US04962111
n-Propyl Pyrazinoate
To 4.0 g (28 mmol) of pyrazinoyl chloride dissolved in methylene chloride (20 mL) and pyridine (2 mL) cooled to 0° C. in a 50 mL round bottom flask was added n-propyl alcohol (4.0 g, 66 mmol). Completion of the reaction and separation as described above, followed by distillation, led to isolation of the title compound as a water white oil; b.p: 68°-73° C. at 0.20 mm Hg.

reactant | pyrazinoyl chloride | 28 mmol, 4.0 g | N1=C(C=NC=C1)C(=O)Cl | C5H3ClN2O
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | n-propyl alcohol | 66 mmol, 4.0 g | C(CC)O | C3H8O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | n-Propyl Pyrazinoate | N1=C(C=NC=C1)C(=O)OCCC | C8H10N2O2
